US07598257B2
Step 3. 4-(4-Bromo-3-methyl-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-chloro-1H-pyrrolo[2,3-b]pyridine (0.050 g, 0.00033 mol) and 4-bromo-3-methyl-1H-pyrazole (0.10 g, 0.00066 mol) was heated at 130° C. overnight. The reaction mixture then was subjected to column chromatography (eluting with 5% MeOH/DCM, 0.5% NH4OH, on silica gel) to give 80 mg pale yellow solid which was triturated with MeOH (1.5 mL) to yield the product as a pale yellow solid (44 mg, 44% yield).

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 0.00033 mol, 0.050 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | 4-bromo-3-methyl-1H-pyrazole | 0.00066 mol, 0.10 g | BrC=1C(=NNC1)C | C4H5BrN2
product | 4-(4-Bromo-3-methyl-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-b]pyridine | 80 mg | BrC=1C(=NN(C1)C1=C2C(=NC=C1)NC=C2)C | C11H9BrN4
